US05405851
B. N-(4-((1,2,5,6-Tetrahydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)sulfonamido)benzoyl)-L-glutamic acid
Diethyl-N-(4-((1,2,5,6-tetrahydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)sulfonamido) benzoyl)-L-glutamate (4.53 g, 7.6 mmole) was dissolved in N-NaOH (64 ml) and the solution stirred at room temperature for 4 hours. The pH of the solution was adjusted to 3.00 with 1N HCl, the solid collected by filtration, washed with water and dried under high vacuum to yield the product as an off-white solid (3.94 g,96%). 1HNMR (DMSO-d6, 300 MHz) δ: 1.84-1.96 (m,1H,glu CH); 2.00-2.10 (m, 1H, glu CH); 2.32(s, 3H, CH3, superimposed over t, 2H, glu CH2); 2.71 (m, 2H, Ar CH2); 2.89 (m, 2H, Ar CH2); 4.28-4.36 (m, 1H, glu CH); 7.20 (d, J=9 Hz, 2H, Ar); 7.39 (d, J=8 Hz, 1H, Ar); 7.62 (dd, J=8,2 Hz, 1H, Ar); 7.74 (d, J=9 Hz, 2H, Ar); 8.44 (d, J=8 Hz, 1H, gluNH); 9.21 (d, J=2 Hz, 1H, Ar); 10.73 (s, 1H, SO2NH); 12.36 (br s, 2H, CO2H); 12.72 (br s, 1H, NH). Anal Calculated for C25H24N4O8S. 3/2H2O: C,52.91; H,4.79; N,9.87; S,5.65. Found: C,52.98; H,4.78; N,9.87; S,5.58.

reactant | Diethyl-N-(4-((1,2,5,6-tetrahydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)sulfonamido) benzoyl)-L-glutamate | 7.6 mmole | C(C)OC([C@@H](NC(C1=CC=C(C=C1)NS(=O)(=O)C=1C=CC2=C(C=3C(NC(=NC3CC2)C)=O)C1)=O)CCC(=O)OCC)=O | C29H32N4O8S
reactant | HCl | 1N | Cl | ClH
product | N-(4-((1,2,5,6-Tetrahydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)sulfonamido)benzoyl)-L-glutamic acid | 3.94 g, 96% | CC1=NC=2CCC3=C(C2C(N1)=O)C=C(C=C3)S(=O)(=O)NC3=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C3 | C25H24N4O8S
